Recorded-load averaged supply probe
Vbattery battery 0 7.4
Rb battery vin .1
Cin vin 0 100u
Vref reference 0 PWL(0 0 .005 5.0)
Bconverter drive 0 V=max(0,min(V(reference),V(vin)-.6))
Drect drive rect DAVG
.model DAVG D(IS=1e-12 N=.01 RS=.001)
Lout rect internal 1u
Rout internal rail .03
Cout rail 0 0.001
Rwire rail bus .02
Vwave wave 0 PWL(
+ 0 0
+ 0.05 0
+ 0.051 0.3
+ 0.099 0.3
+ 0.1 -1
+ 0.12 -1
+ 0.121 0
+ 0.15 0
+ )
Bload bus 0 I=V(wave)
Binput vin 0 I=max(V(drive)*I(Lout),0)/(.85*max(V(vin),.5))
Bcontroller vin 0 I=3/max(V(vin),.5)
* Comparator and dissipative brake candidate
Rtop bus sense 11800.0
Rbottom sense 0 10000.0
Rfeedback gate sense 1000000.0
Rpull bus gate 2200
Cgate gate 0 1.5e-09
Rbias bus refbrake 2200
Bref refbrake 0 V=min(2.495,max(V(bus)-1,0))
Berror cmp 0 V=V(refbrake)-V(sense)+0.0
Rlag cmp cmpfilter 10000
Clag cmpfilter 0 5e-10
Ssink gate 0 cmpfilter 0 SCOMP
.model SCOMP SW(RON=50 ROFF=1e9 VT=0 VH=.001)
Rbrake bus drain 4.7
Sbrake drain 0 gate 0 SMOS
.model SMOS SW(RON=0.05 ROFF=1e9 VT=100 VH=.05)
Bquiescent bus 0 I=.0008
.control
set wr_singlescale
set wr_vecnames
tran 1u 0.15 0 1u uic
wrdata trace.dat v(battery) v(vin) v(drive) v(rect) v(internal) v(rail) v(bus) i(Vbattery) i(Lout) v(wave) v(gate) v(drain) v(sense) v(refbrake)
quit
.endc
.end
