Default-off converter enable interface
Vbattery battery 0 8.4
Rinternal battery en 800k
Roff en 0 33330.0
Iinput 0 en 1u
Cen en 0 1e-09
Vcontrol control 0 PWL(0 .2 .003 .2 .003001 2.5872 .008030 2.5872 .008031 0 .012 0 .012001 2.5872)
Bdiode control en I=max((V(control)-V(en)-.9)/10,0)-80n*max(0,min((V(en)-V(control))*100,1))
Cdiode control en 2p
.control
set wr_singlescale
set wr_vecnames
tran 100n 15m 0 100n
wrdata trace.dat v(en) v(control) i(Vcontrol)
quit
.endc
.end
